US06414145B1
A solution of methyl 3-[2-(thiazol-2-yl)-3-(imidazol-1-yl)prop-1-en-1-yl]-5-phenylbenzoate (Z isomer) (1.41 g; 3.5 mmol) in methanol (15 ml) was heated at reflux with 2N aqueous sodium hydroxide solution (4.4 ml; 8.79 mmol) for 5 hours. Methanol was then evaporated and the solution acidified to pH 6 with 6N HCl. The resulting precipitate was triturated with ethanol/ether to give 3-[2-(thiazol-2-yl)-3-(imidazol-1-yl)prop-1-en-1-yl]-5-phenylbenzoic acid as a solid.

reactant | methyl 3-[2-(thiazol-2-yl)-3-(imidazol-1-yl)prop-1-en-1-yl]-5-phenylbenzoate | 3.5 mmol, 1.41 g | S1C(=NC=C1)C(=CC=1C=C(C(=O)OC)C=C(C1)C1=CC=CC=C1)CN1C=NC=C1 | C23H19N3O2S
reactant | sodium hydroxide | 8.79 mmol, 2N, 4.4 ml | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 3-[2-(thiazol-2-yl)-3-(imidazol-1-yl)prop-1-en-1-yl]-5-phenylbenzoic acid | Yield=68% | S1C(=NC=C1)C(=CC=1C=C(C(=O)O)C=C(C1)C1=CC=CC=C1)CN1C=NC=C1 | C22H17N3O2S
